US08193189B2
2-(4-Bromo-phenyl)-1-(1,1-dioxido-thiomorpholin-4-yl)-ethanone
A solution of 1.17 g (5 mmol) (4-Bromo-phenyl)-acetyl chloride (CAS 37859-24-8) in 25 ml CH2Cl2 is added dropwise to a solution of 710 mg (5.25 mmol) thiomorpholine 1,1-dioxide in 25 ml CH2Cl2. After complete addition, the reaction mixture is partitioned between water and CH2Cl2. The aqueous phase is re-extracted twice with CH2Cl2. The combined organic solution is washed with brine, dried over Na2SO4 and concentrated in vacuo to afford the title compound as a light yellow residue.

reactant | (4-Bromo-phenyl)-acetyl chloride | 5 mmol, 1.17 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | thiomorpholine 1,1-dioxide | 5.25 mmol, 710 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-phenyl)-1-(1,1-dioxido-thiomorpholin-4-yl)-ethanone | BrC1=CC=C(C=C1)CC(=O)N1CCS(CC1)(=O)=O | C12H14BrNO3S
